spice
* SPICE Netlist for the given schematic
* NPN BJT Transistor
Q1 Vout Vin VEE QNPN
* Current Source
I1 VEE Vin DC 0.01
* Resistor
RL Vout 2 1k
* Voltage Sources
VCC VCC 0 DC 12
? Missing component
* Model Definitions
.model QNPN NPN (IS=1E-14 BF=100)
* End of Netlist
